US06359009B1
Preparation of Ethyl 2-(isopropylthio)-2-methylpropionate
A solution of 1,1,1,3,3,3-hexamethyldisilazane (10.4 mL, 48 mmol) in tetrahydrofuran is cooled to 0° C., treated with a 2.04 M solution of n-butyllithium in tetrahydrofuran (22.6 mL, 46 mmol), stirred at 0° C. for 30 minutes, treated dropwise with ethyl 2-(isopropylthio)propionate (7.6 g, 42 mmol), stirred at 0° C. for 1 hour, treated with methyl iodide, stirred at room temperature for 22 hours, and poured into an ice-water mixture (100 g) containing 10 mL of 6 N hydrochloric acid. The resultant aqueous mixture is extracted with ether. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a brown liquid. Vacuum distillation of the brown liquid gives the title product as a liquid (6.8 g) which is identified by NMR spectral analysis.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 48 mmol, 10.4 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl 2-(isopropylthio)propionate | 42 mmol, 7.6 g | C(C)(C)SC(C(=O)OCC)C | C8H16O2S
reactant | methyl iodide | CI | CH3I
reactant | hydrochloric acid | 6 N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 46 mmol, 22.6 mL | O1CCCC1 | C4H8O
product | Ethyl 2-(isopropylthio)-2-methylpropionate | 6.8 g | C(C)(C)SC(C(=O)OCC)(C)C | C9H18O2S
